*test1
****************************************
* Type     : hspice
* Tool     : AETHER-SE
* Date     : Fri Sep 25 08:57:31 2020
* User     : yuanqi
* Top Design : homework1/test1/schematic
****************************************

.GLOBAL

****************************************
* Library : homework1
* Cell    : test1
* View    : schematic
****************************************

**TopDesStart
MNM0 vout net4 0 0 n18 L=1u W=1u AD=480f AS=480f PD=2.96u PS=2.96u M=1
II0 net0 vout DC 9.3u
VV1 net0 0 DC 1.8
VV0 net4 0 DC vin AC 1
**TopDesEnd
